US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(2,2-difluoroethyl)-2-methyl-1H-imidazole-4-carboxamide
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-methyl-1H-imidazole-4-carboxamide (100 mg, 0.271 mmol) was suspended in acetonitrile (5 ml). 1,1-Difluoro-2-iodoethane (0.053 ml, 116 mg) and cesium carbonate (124 mg, 0.380 mmol) were added and the resulting mixture was stirred overnight at RT. Next day 2 ml of THF and 50 μl of 1,1-difluoro-2-iodoethane was added and the stirring was continued for three more nights. Another 0.2 ml of 1,1-difluoro-2-iodoethane was added and the reaction mixture was stirred overnight. The reaction mixture was evaporated. 3 ml of N,N-dimethyl formamide was added and the mixture filtered. Filtrate was purified with LC/MS-trigger. Yield 27.4%. 1H-NMR (400 MHz; CDCl3): δ 1.22 (d, 3H), 2.44 (s, 3H), 4.19-4.33 (m, 3H), 4.39 (dd, 1H), 4.51-4.62 (m, 1H), 5.82-6.13 (m, 1H), 6.61 (d, 1H), 7.49 (d, 1H), 7.52 (s, 1H), 7.64-7.71 (m, 2H), 7.85 (dd, 1H), 8.00 (d, 1H).

reactant | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-methyl-1H-imidazole-4-carboxamide | 0.271 mmol, 100 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
reactant | 1,1-Difluoro-2-iodoethane | 0.053 ml, 116 mg | FC(CI)F | C2H3F2I
reactant | cesium carbonate | 0.380 mmol, 124 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | 1,1-difluoro-2-iodoethane | 50 μl | FC(CI)F | C2H3F2I
reactant | 1,1-difluoro-2-iodoethane | 0.2 ml | FC(CI)F | C2H3F2I
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(2,2-difluoroethyl)-2-methyl-1H-imidazole-4-carboxamide | Yield 27.4% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)CC(F)F)C | C20H19ClF2N6O
